US06579983B1
A mixture of indazol-5-ylguanidinium nitrate (524 mg, 2.2 mmol), 1-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2-cyano-3-dimethylaminopropen-1-one (714 mg, 2.0 mmol) and powdered sodium hydroxide (96 mg, 2.4 mmol) in propan-2-ol (30 ml) was heated at reflux for 6 h. The reaction was concentrated in vacuo and the residue purified by column chromatography (silica, 60% ethyl acetate in hexane, loading the crude material in dichloromethane) to give 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-5-cyano-N-(indazol-5-yl)-pyrimidine-2-amine as a yellow solid (850 mg). δH (CDCl3) 8.69 (1H, s), 8.18 (1H, s), 8.11 (1H, s), 8.05 (2H, d, J 8.4 Hz), 7.93 (1H, bs), 7.57 (2H, d, J 8.4 Hz), 7.50 (2H, m), 5.10 (1H, bs), 1.66 (6H, s), 1.40 (9H, bs). MS (ESI) 492 (MNa+, 61%), 470 (MH+, 100%), 414 (19%). This product was dissolved in a mixture of TFA acid (20 ml) and CH2Cl2 (20 ml) and was stirred for 30 mins at room temperature before concentrating the reaction in vacuo. The residue was dissolved in 10% MeOH in CH2Cl2 (200 ml) and the organic phase washed with sat. Na2CO3 (aq) (50 ml), dried (MgSO4) and concentrated in vacuo to give the title compound as a bright yellow solid (541 mg) m.p. 267-271° (dec.). δH (d6DMSO) 13.03 (1H, bs), 10.46 (1H, s), 8.91 (1H, s), 8.16 (1H, s), 8.04 (1H, s), 7.94 (2H, d, J 8.4 Hz), 7.74 (2H, d, J 8.4 Hz), 7.61 (1H, m), 7.52 (1H, d, J 8.9 Hz), 3.44 (2H, bs), 1.48 (6H, s). MS (ESI) 392 (MNa+, 11%), 370 (MH+, 23%), 353 (100%).

reactant | indazol-5-ylguanidinium nitrate | 2.2 mmol, 524 mg | [N+](=O)([O-])[O-].N1N=CC2=CC(=CC=C12)NC(=[NH2+])N
reactant | 1-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-2-cyano-3-dimethylaminopropen-1-one | 2.0 mmol, 714 mg | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C(C(=CN(C)C)C#N)=O | C20H27N3O3
reactant | sodium hydroxide | 2.4 mmol, 96 mg | [OH-].[Na+]
solvent | propan-2-ol | 30 ml | CC(C)O | C3H8O
product | 4-[4-(1-tert-butoxycarbonylamino-1-methylethyl)phenyl]-5-cyano-N-(indazol-5-yl)-pyrimidine-2-amine | 850 mg | C(C)(C)(C)OC(=O)NC(C)(C)C1=CC=C(C=C1)C1=NC(=NC=C1C#N)NC=1C=C2C=NNC2=CC1 | C26H27N7O2
